US09168248B2
5-Bromo-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride
1-Bromo-3-(methoxymethoxy)benzene To a solution of 3-bromophenol (10 g, 57.8 mmol) and Hunig's base (35.7 mL, 205 mmol) in CH2Cl2 (30 mL) at −78° C., was added MOM-Cl (10.98 mL, 145 mmol). The mixture was warmed to room temperature and stirred overnight. The mixture was diluted with water (150 mL), stirred for 15 min and extracted with CH2Cl2 (2×). The CH2Cl2 extract was washed with brine, dried (Na2SO4), filtered and concentrated to give a yellow oil. The material was purified by column chromatography on SiO2 (gradient from 0 to 20% EtOAc/hexanes) to give the title compound as a colorless oil.

reactant | 1-Bromo-3-(methoxymethoxy)benzene | BrC1=CC(=CC=C1)OCOC | C8H9BrO2
reactant | 3-bromophenol | 57.8 mmol, 10 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | Hunig's base | 205 mmol, 35.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MOM-Cl | 145 mmol, 10.98 mL | C(OC)Cl | C2H5ClO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | 5-Bromo-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride | [Cl-].BrC1=C2CCC3(CC[NH2+]CC3)OC2=CC=C1 | InChI=1S/C13H16BrNO.ClH/c14-11-2-1-3-12-10(11)4-5-13(16-12)6-8-15-9-7-13;/h1-3,15H,4-9H2;1H
